US07015218B1
Phosphorus oxychloride (96.5 g) was added dropwise under ice-cooling to dimethylformamide (600 ml) containing 1-(4-fluorophenyl)pyrrole (101 g) over 1 h, and the mixture was stirred for 2 h and at room temperature for one day. The reaction mixture was added to 3 Liters of aqueous solution containing potassium carbonate (130 g) and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. Diisopropyl ether was added to the residue to allow crystallization. The crystals were recrystallized from a mixed solvent of toluene-diisopropyl ether (ratio=1:10) to give 1-(4-fluorophenyl)-2-formylpyrrole (43 g), melting point: 82–83° C.

reactant | Phosphorus oxychloride | 96.5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-(4-fluorophenyl)pyrrole | 101 g | FC1=CC=C(C=C1)N1C=CC=C1 | C10H8FN
reactant | potassium carbonate | 130 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | 1-(4-fluorophenyl)-2-formylpyrrole | 43 g | FC1=CC=C(C=C1)N1C(=CC=C1)C=O | C11H8FNO
